US09290451B2
c) tert-Butyl 2-(5-methyl-1,2,4-oxadiazol-3-yl)propan-2-ylcarbamate
To a solution of acetic acid (1.8 g) in DMF (50 mL) was added N,N′-carbonyldiimidazole (CAN 530-62-1, 4.865 g, mmol). The solution was stirred at ambient temperature for 0.5 h. (Z)-tert-butyl 1-amino-1-(hydroxyimino)-2-methylpropan-2-ylcarbamate (6.07 g) was added and the reaction mixture was stirred at 120° C. for 10 h. Removal of the solvent under reduced pressure left a yellow oil which was purified by column chromatography (silica gel 120 g, eluting with 30% ethyl acetate in petroleum ether) to give the title compound (5.38 g, 80%) as colorless oil; MS: m/e=264.1 [M+Na]+.

reactant | acetic acid | 1.8 g | C(C)(=O)O | C2H4O2
reactant | (Z)-tert-butyl 1-amino-1-(hydroxyimino)-2-methylpropan-2-ylcarbamate | 6.07 g | N\C(\C(C)(C)NC(OC(C)(C)C)=O)=N/O | C9H19N3O3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2-(5-methyl-1,2,4-oxadiazol-3-yl)propan-2-ylcarbamate | 5.38 g, 80% | CC1=NC(=NO1)C(C)(C)NC(OC(C)(C)C)=O | C11H19N3O3
